US06358971B1
2-Amino-3-(3,4-dichlorophenyl)-6-benzoyl-imidazo[1,2-a]pyridine
The 2-trifluoroacetamido-3-(3,4-dichlorophenyl)-6-benzoyl-imidazo[1,2-a]pyridine (9.91 g, 20.8 mmol) was converted to product in a manner substantially analogous to Example 67 to yield 7.17 g. (90.4%). EA, MS(FD).

reactant | 2-trifluoroacetamido-3-(3,4-dichlorophenyl)-6-benzoyl-imidazo[1,2-a]pyridine | 20.8 mmol, 9.91 g | FC(C(=O)NC=1N=C2N(C=C(C=C2)C(C2=CC=CC=C2)=O)C1C1=CC(=C(C=C1)Cl)Cl)(F)F | C22H12Cl2F3N3O2
solvent | EA | CC(OCC)=O | C4H8O2
product | 2-Amino-3-(3,4-dichlorophenyl)-6-benzoyl-imidazo[1,2-a]pyridine | NC=1N=C2N(C=C(C=C2)C(C2=CC=CC=C2)=O)C1C1=CC(=C(C=C1)Cl)Cl | C20H13Cl2N3O
